Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hypotension, Abdominal Pain
 
Major Surgical or Invasive Procedure:
Right internal jugular line placement 
 
History of Present Illness:
Ms. ___ is a ___ w/ PMH of EtOH abuse (currently still 
drinking) c/b EtOH hepatitis, Wernicke's encephalopathy, 
hypotension likely due to autonomic neuropathy; hypothyroidism, 
hypertension, Hx of bariatric surgery, and other issues who was 
sent to the ED with hypotension.  She was at a ___ 
appointment at her oncologist's office today where her SBP was 
noted to be in the ___.  On review of systems, she endorsed 
nausea, vomiting, and diffuse abdominal pain. She also endorsed 
night sweats.  She denied dysuria, cough, chest pain. Denied 
diarrhea, BPR, or melena.

In the ED, initial vitals: 98.1 89 98/68 16 98% RA.  Exam 
notable for suprapubic, periumbilical, epigastric, and RUQ TTP.  
Labs were notable for WBC 4.7 w/ 71% PMNs and 9% bands, Hgb 
12.5, plts 232, BUN/Cr 94/3.3 (most recent Cr 2.9), HCO3 18, 
anion gap 27, ALT/AST 247/286, alk phos 590, T bili 3.2, Lactate 
4.4.  UA unremarkable.  serum bHCG was 7 (equivocal).  Stool was 
guiac negative.  RUQ US notable for "Small amount of gallbladder 
sludge, without gallbladder distention or pericholecystic 
fluid., and Normal CBD caliber, without intrahepatic biliary 
dilatation."  CT abdomen/pelvis was ordered, and BCx were 
collected.  Patient received 2L NS, Zofran, and 
piperacillin/tazobactam and was admitted.  On transfer, vitals 
were: 99.1 77 110/56 15 100% RA.  
 
On arrival to the MICU, the patient reported ongoing diffuse 
abdominal pain.
 
Past Medical History:
___'S ENCEPHELOPATHY
ASTHMA  
TOBACCO DEPENDENCE  
ALCOHOL DEPENDENCE  
HYPOTHYROIDISM  
HYPERTENSION  
S/P BARIATRIC SURGERY  
H/O ALCOHOLIC HEPATITIS 
GOUT 
 
Social History:
___
Family History:
Family history significant for T2DM, HTN, hypothyroidism and 
asthma.
 
Physical Exam:
==================================
PHYSICAL EXAMINATION ON ADMISSION:
==================================
Vitals: 99.1 77 110/56 15 100% RA. 
GENERAL: Alert, oriented, cachectic, ___ woman in mild 
distress
HEENT: Sclera anicteric, MM dry, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs
ABD: soft, diffuse TTP worse in the RUQ, bowel sounds present
EXT: Warm, well perfused, 2+ pulses, no edema  
SKIN:  Dressing covering surgical site on R thigh
NEURO:  Moving all extremities

==================================
PHYSICAL EXAMINATION ON DISCHARGE:
==================================
Vitals: T 97.9 BP ___ HR ___ 96 RA
GENERAL: Alert, oriented, cachectic, ___ woman in no 
acute distress. 
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: clean dressing over site of previous R IJ CVL
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs  
ABD: soft, mild diffuse TTP, no rebound, slight guarding
EXT: Warm, well perfused. trace RLE edema 
SKIN: no rashes, lesions appreciated 
NEURO: Moving all extremities  
 
Pertinent Results:
======================
LABS ON ADMISSION
======================
___ 10:03PM BLOOD ___ 
___ Plt ___
___ 10:03PM BLOOD ___ 
___ 
___
___ 10:03PM BLOOD ___ 
___ Tear 
___
___ 10:03PM BLOOD ___ ___
___ 10:03PM BLOOD Plt ___
___ 10:03PM BLOOD ___ 
___
___ 10:03PM BLOOD ___ 
___
___ 10:03PM BLOOD ___
___ 10:03PM BLOOD ___
___ 10:03PM BLOOD ___
___ 10:08PM BLOOD ___
___ 02:33AM BLOOD ___ 
___ Base XS--1 ___ TOP
___ 12:19AM URINE ___ Sp ___
___ 12:19AM URINE ___ 
___
___ 12:19AM URINE ___ 
Epi-<1
___ 10:27AM URINE ___

======================
PERTINENT INTERVAL LABS
======================
LFT TREND:
___ 10:03PM BLOOD ___ 
___
___ 02:17AM BLOOD ___ LD(LDH)-189 
___
___ 09:35AM BLOOD ___ LD(LDH)-139 
___
___ 12:06PM BLOOD ___ LD(LDH)-140 
___
___ 05:37AM BLOOD ___ 
___
___ 09:53AM BLOOD ___

Lipase:
___ 10:03PM BLOOD ___
___ 02:17AM BLOOD ___

Lactate:
___ 10:08PM BLOOD ___
___ 02:33AM BLOOD ___

___ 06:11AM BLOOD Ret ___ Abs ___
======================
MICROBIOLGY
======================
___ 9:15 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      KLEBSIELLA PNEUMONIAE.    FINAL SENSITIVITIES. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   Aerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___ ___ 11:10 
___. 
      GRAM NEGATIVE ROD(S). 

   Anaerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___ 11:10 ___. 
      GRAM NEGATIVE ROD(S). 

___ 10:18 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      KLEBSIELLA PNEUMONIAE. 
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
___
         ___. 

   Aerobic Bottle Gram Stain (Final ___:    GRAM NEGATIVE 
ROD(S). 

   Anaerobic Bottle Gram Stain (Final ___:    GRAM 
NEGATIVE ROD(S). 

___ 4:55 am URINE     Site: CATHETER      Source: Catheter. 


                            **FINAL REPORT ___

   Chlamydia trachomatis, Nucleic Acid Probe, with Amplification 
(Final
      ___: 
      Negative for Chlamydia trachomatis by ___ System, 
APTIMA COMBO 2
      Assay. 
      Validated for use on Urine Samples by the ___ 
Microbiology
      Laboratory. Performance characteristics on urine samples 
were found
      to be equivalent to those of FDA- approved TIGRIS APTIMA 
COMBO 2
      and/or COBAS Amplicor methods. 

   NEISSERIA GONORRHOEAE (GC), NUCLEIC ACID PROBE, WITH 
AMPLIFICATION
      (Final ___: 
      Negative for Neisseria gonorrhoeae by ___ System, 
APTIMA COMBO 2
      Assay. 
      Validated for use on Urine Samples by the ___ 
Microbiology
      Laboratory. Performance characteristics on urine samples 
were found
      to be equivalent to those of FDA- approved TIGRIS APTIMA 
COMBO 2
      and/or COBAS Amplicor methods. 

___ - Blood Culture x 2 - Pending
___ - Blood Culture x 2 - Pending
___ - Blood Culture x 2 - Pending

======================
LABS ON DISCHARGE
======================
___ 09:53AM BLOOD ___ 
___ Plt ___
___ 09:53AM BLOOD ___ 
___
___ 09:53AM BLOOD ___
___ 09:53AM BLOOD ___

======================
IMAGING/STUDIES
======================
Cardiovascular Report ECG Study Date of ___  6:08:45 ___ 
Sinus rhythm. Compared to the previous tracing of ___ 
voltage has 
normalized. 

Cardiovascular Report ECG Study Date of ___  9:26:38 ___ 
Baseline artifact. Probable sinus rhythm. 
  
LIVER OR GALLBLADDER US (SINGLE ORGAN) Study Date of ___  

1.  Small amount of gallbladder sludge, without gallbladder 
distention or 
pericholecystic fluid.   
2.  Normal CBD caliber, without intrahepatic biliary dilatation. 


PELVIS LIMITED Study Date of ___ 5:51 ___ 
The uterus and ovaries are not visualized.  The patient declined 
the 
transvaginal portion of the exam for further although evaluation 


CT ABD & PELVIS W/O CONTRAST Study Date of ___ 2:09 ___ 
1. No etiology for the patient's pain identified.  No evidence 
for infection in the abdomen and pelvis.  No ovarian masses. 
2. 0.9 cm opacity in the right lower lobe is new from ___ and may represent an infectious focus.  Further evaluation 
with full chest CT is recommended 
3. Significant improvement in hepatic steatosis. 

CT CHEST W/O CONTRAST Study Date of ___  
Normal Chest CT. No evidence of active intrathoracic infection 
or malignancy.  Right lower lobe opacity described on recent CT 
has almost completely resolved consistent with resolving 
atelectasis 
 
Brief Hospital Course:
Ms. ___ is a ___ w/ PMH of EtOH abuse (currently still 
drinking) c/b EtOH hepatitis, Wernicke's encephalopathy, 
hypotension likely due to autonomic neuropathy; hypothyroidism, 
hypertension, Hx of bariatric surgery, and other issues who was 
sent to the ED with hypotension and bandemia concerning for 
pancreatitis.

#Septic shock: Patient presented with abdominal pain and fever, 
was found to have hypotension requiring IVF resuscitation and 
levophed for which she had a R IJ CVL placed. She was 
subsequently found to have GNR bacteremia which speciated to pan 
sensitive klebsiella in ___ bottles. She was initialy treated 
with broad spectrum antibiotics with IV Vancomycin/Zosyn which 
was narrowed to PO Ciprolfoxacin on discharge. Her blood 
pressure gradually increased and patient was off levophed with 
overall improvement of her symptoms. The etiology of the 
bacteremia as thought likely to be intrabdominal given pain and 
further findings described below in # abdominal pain. The 
differential also included pelvic process given adnexal 
tenderness on physical exam. Urinary etiologies were on the 
differential, though no urine culture prior to antibiosis 
obtained. The patient had previous hematoma evacuation of right 
thigh though wound appeared intact without evidence of 
infection. Of note the patient had a history of high risk HPV 
with ASCUS and there was concern that cervical etiologies could 
be the source of infection, particularly concerning for 
malignancy in the setting of her anemia and recent thrombosis as 
well. The patient understood the need for outpatient follow up 
with pap smear and IUD removal, and this was relayed to the 
patient's PCP as well. There were no other appreciate sources of 
infection on non contrast (in setting ___ on CKD) scans of 
the chest, abdomen and pelvis. The patient remained afebrile and 
hemodynamically stable after transfer to the medicine floor from 
the MICU.

# Abdominal pain: Patient presented with abdominal pain and 
fever, was found to have GNR bacteremia speciated to pan 
sensitive klebsiella as above. In terms of source of infection, 
RUQ ultrasound was without evidence of cholecystitis or CBD 
dilatation and CT chest/abdomen was not notable for any 
abnormalities that could explain the symptoms. Elevated lipase 
with elevated LFTs was suggestive of pancreatitis; however, her 
pain was not entirely typical (not prominent in epigastrium) and 
CT abdomen did not show signs of pancrteatitis. 
Choledocholithiasis with a passed stone was thought to be a 
possibility as well given the downtrending LFTS. The 
differential also included pelvic etiology, though patient 
denied any urinary or vaginal symptoms. The patient's pain 
improved thoughout the admission and the patient was tolerating 
PO well on discharge.  

# Pancreatitis: Patient with lipase >3X ULN and abdominal pain 
(though somewhat atypical), however no evidence of pancreatitis 
on CT (though non contrast given ___ on CKD). Differential 
included EtOH given history of heavy drinking, biliary sources 
given elevated LFTs on admission as well. However lipase may 
also have been elevated for alternate etiologies in the setting 
of possible GI infection and may not have been representative of 
true pancreatitis. As above the patient's pain improved 
throughout the admission and was tolerating PO well on 
discharge. 

# Transaminitis: The differential included biliary infection, 
however  RUQ US without cholecystitis or biliary dilatation, vs. 
choledochlithiasis with passed stone. Could consider 
contribution from heavy EtOH as well, though ration of ALT/AST 
less suggestive of this etiology. The patient's LFTs improved 
throughout the hospital course, and T bili normalized. 

# ___: Patient was recently discontinued from 
hemodialysis in the past month, as her renal function has 
recovered from a prior ATN. Cr was elevated on admission to 3.3. 
She received fluid and her creatinine gradually decreased. 
Creatinine on discharge was 1.8.

# Anemia: Patient with chronic anemia extensively worked up in 
the past. No evidence of current hemolysis given normalized T 
bili. Likely component of hemoconcentration on admission in the 
setting of septic shock. Differential included infection and 
medication (Zosyn) causing bone marrow suppression, as well as 
heavy EtOh use. The patient did not require any blood 
transfusions during the admission.

# EtOH abuse: Patient reported drinking ___ to 1 pint of hard 
liquor per day, with her last drink being the day before 
admission. She was placed on CIWA scale, and treated with 
multivitamins and thiamine. The patient attempted to leave AMA 
the day prior to discharge and was evaluated by psychiatry 
overnight who were concerned that the patient lacked capacity to 
at that time. The patient as re evaluated in the morning by 
psychiatry and after further discussion was deemed to have 
capacity regarding her plan of care. The patient was instructed 
regarding risks of alcohol withdrawal and referred to substance 
abuse treatment by psychiatry which she declined.

# ___ metabolic acidosis: Resolved. Most likely due to 
lactic acidosis on presentation

# Equivocal Serum HCG: Patient denied possibility of pregnancy. 
Urine hCG was negative. Patient with IUD in place with plans for 
outpatient removal.

====================
CHRONIC ISSUES
====================
# Hypothyroidism: Patient continued Levothyroxine Sodium 62.5 
mcg PO DAILY. 

# Hx of wet beri beri: Furosemide was held in the setting of 
septic shock and held on discharge given no evidence of volume 
overload and soft pressures.

# HTN: Home Hydrochlorothiazide held as well given infection and 
soft pressures as well. 

# Gout: Patient restarted on home allopurinol. 

====================
TRANSITIONAL ISSUES
==================== 
- Please continue PO Ciprofloxacin through ___ (___)
- Patient will need pap smear as outpatient for further 
evaluation of high risk HPV in setting of bacteremia, anemia, 
and thrombosis
- Please discuss with PCP the need for restarting furosemide as 
an outpatient.
- Patient will need removal of IUD
- Patient will need removal of IVC filter in future - please 
discuss with PCP
- ___ obtain CBC and Chem 10 at next PCP appointment for 
evaluation of anemia and Creatinine given ___ on CKD
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyanocobalamin 50 mcg PO DAILY 
2. FoLIC Acid 1 mg PO DAILY 
3. Multivitamins W/minerals 1 TAB PO BID 
4. Levothyroxine Sodium 62.5 mcg PO DAILY 
5. Furosemide 40 mg PO DAILY 
6. Hydrochlorothiazide 25 mg PO DAILY 
7. Allopurinol ___ mg PO DAILY 
8. Thiamine 100 mg PO DAILY 
9. Ascorbic Acid ___ mg PO BID 
10. Ferrous Sulfate 325 mg PO DAILY 
11. Fluticasone Propionate NASAL 1 SPRY NU BID 
12. Acetaminophen 650 mg PO Q8H:PRN pain 
13. Vitamin E 400 UNIT PO QD 
14. Vitamin D Dose is Unknown  PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q8H:PRN pain 
2. Allopurinol ___ mg PO DAILY 
3. Fluticasone Propionate NASAL 1 SPRY NU BID 
4. FoLIC Acid 1 mg PO DAILY 
5. Levothyroxine Sodium 62.5 mcg PO DAILY 
6. Multivitamins W/minerals 1 TAB PO BID 
7. Ciprofloxacin HCl 500 mg PO Q24H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth daily Disp #*9 
Tablet Refills:*0
8. Ascorbic Acid ___ mg PO BID 
9. Cyanocobalamin 50 mcg PO DAILY 
10. Ferrous Sulfate 325 mg PO DAILY 
11. Thiamine 100 mg PO DAILY 
12. Vitamin D unknown  PO DAILY 
13. Vitamin E 400 UNIT PO QD 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses 
=================== 
Sepsis 
Klebsiella pneumoniae bacteremia 
Pancreatitis 
Transaminitis 
Abdominal Pain 
Acute on chronic kidney disease 
Anemia 
Anion gap metabolic acidosis 
 
 
Secondary Diagnoses 
=================== 
Hypothyroidism 
Alcohol use disorder 
Tobacco use disorder 
History of wet beri beri 
History of Wernicke's encephalopathy 
Gout 
Hypertension  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure caring for you during your stay at ___. You 
were admitted to the hospital with low blood pressure. You were 
treated with fluids and medications to increase your blood 
pressure. You were also found to have an infection in your blood 
stream. You will need to continue to take antibiotics for this 
infection for a total of 2 weeks.

It is very important that you follow up with your primary care 
doctor. You will need to have a pap smear as an outpatient. You 
will also need to have your IUD removed. You should also discuss 
the optimal timing with your primary care doctor of removal of 
the IVC filter that was placed in your leg because of blood 
clots.

Please take ciprofloxacin daily THROUGH ___

It was a pleasure to be a part of your care,
Your ___ treatment team

 
Followup Instructions:
___